US05017212
2,6-Dichloroimidazo[1,2-b]pyridazine
Sodium salt of 6-chloro-2-hydroxyimidazo [1,2-b]pyridazine (16.0 g) is gradually added to 100 ml of phosphorus oxychloride and heated under reflux for 5 hours. The mixture is distilled under reduced pressure to remove about two-thirds amount of phosphorus oxychloride used, and the residue is poured into ice water, neutralized with aqueous ammonia and extracted with chloroform. The extract is dried over anydrous sodium sulfate and distilled to remove chloroform. The residue then is purified by silica gel chromatography (eluent: dichloromethane) to give 1.5 g of the title compound as crystals.

reactant | Sodium | [Na] | Na
reactant | 6-chloro-2-hydroxyimidazo [1,2-b]pyridazine | 16.0 g | ClC=1C=CC=2N(N1)C=C(N2)O | C6H4ClN3O
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,6-Dichloroimidazo[1,2-b]pyridazine | 1.5 g | ClC=1N=C2N(N=C(C=C2)Cl)C1 | C6H3Cl2N3
